US08198279B2
1-(3-Tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-fluoro-4-(3-methyl-2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-041)
Method F3 was used with 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole and 8-(4-Amino-3-fluorophenoxy)-3-methylpyrido[2,3-b]pyrazin-2(1H)-one.

reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
reactant | 8-(4-Amino-3-fluorophenoxy)-3-methylpyrido[2,3-b]pyrazin-2(1H)-one | NC1=C(C=C(OC2=CC=NC=3N=C(C(NC32)=O)C)C=C1)F | C14H11FN4O2
product | 1-(3-Tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-fluoro-4-(3-methyl-2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2N=C(C(NC21)=O)C)F)C2=CC=CC=C2 | C28H26FN7O3
